US06897231B2
A. 3-(3-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
To a stirred solution of 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (1.47 g, 4.82 mmol) in dimethoxyethane (24.0 mL) was added 3-hydroxyphenylboronic acid (1.60 g, 7.27 mmol), dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium (0.396 g, 0.485 mmol), and potassium phosphate (5.12 g, 24.1 mmol) and the mixture was heated at reflux for 48 h. The mixture was diluted with dichloromethane. The organic extracts were washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated. Purification of the residue by column chromatography with 20-50% ethyl acetate/hexanes furnished the product (1.31 g, 85% yield). ES-MS (m/z) 320 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 4.82 mmol, 1.47 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | 3-hydroxyphenylboronic acid | 7.27 mmol, 1.60 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | potassium phosphate | 24.1 mmol, 5.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethoxyethane | 24.0 mL | C(OC)COC | C4H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium | 0.485 mmol, 0.396 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-hydroxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.31 g, 85% yield | OC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H17N3O2
